US05214197
To a solution of 2-tert.-butyl-5-oxo-1,3-dioxolan-4-acetic acid (10.11 g, 50 mmol) in THF (300.0 ml), carbonyldiimidazole (8.92 g, 55 mmol) was added at 0° C. in an argon atmosphere and stirred for 15 minutes, followed by further stirring at room temperature for 4 hours. To the resulting solution, magnesium bis(mono-tert.-butyl malonate) (22.27 g, 65 mmol) was added at room temperature and stirred for 40 hours. After evaporating THF off under reduced pressure, a 25 % aqueous solution of citric acid was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane:acetone=3:1) to give pure tert.-butyl 4-(2-tert.-butyl-5-oxo-1,3-dioxolan-4-yl)-3-oxobutanoate (11.51 g, 38 mmol). Yield, 76.6%.

reactant | 2-tert.-butyl-5-oxo-1,3-dioxolan-4-acetic acid | 50 mmol, 10.11 g | C(C)(C)(C)C1OC(C(O1)CC(=O)O)=O | C9H14O5
reactant | carbonyldiimidazole | 55 mmol, 8.92 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | magnesium bis(mono-tert.-butyl malonate) | 65 mmol, 22.27 g | C(C)(C)(C)C(C(=O)[O-])C(=O)[O-].C(C)(C)(C)C(C(=O)[O-])C(=O)[O-].[Mg+2].[Mg+2]
solvent | THF | 300.0 ml | C1CCOC1 | C4H8O
product | tert.-butyl 4-(2-tert.-butyl-5-oxo-1,3-dioxolan-4-yl)-3-oxobutanoate | 38 mmol, 11.51 g | C(C)(C)(C)C1OC(C(O1)CC(CC(=O)OC(C)(C)C)=O)=O | C15H24O6
